US07838675B2
N-[2-[[(2,3-Difluorophenyl)methyl]thio]-6-methoxypyrimidin-4-yl]azetidine-1-sulfonamide
The title compound was prepared according to the procedure outlined in example 1, step iv). A mixture of azetidine-1-sulfonamide (prepared according to patent WO 2004/011443, 0.15 g), tris(dibenzylideneacetone)dipalladium (0) (44 mg), 2-dicyclohexylphosphino-2′4′6′-tri-iso-propyl-1,1′biphenyl (44 mg), cesium carbonate (0.36 g) and 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-methoxypyrimidine (the product of step i) (0.23 g) in dioxane (7.2 mL). Acetic acid (0.67 mL) was added and the reaction mixture was extracted with EtOAc (×3). The combined organic layers were washed with H2O, dried (MgSO4), filtered and the solvent evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel using EtOAc/isohexane (3:7) as eluent. The resulting solid was further purified by trituration with iso-hexane and dried under high vacuum at 40° C. to give the title compound as a pale yellow solid. Yield: 0.29 g.

reactant | azetidine-1-sulfonamide | 0.15 g | N1(CCC1)S(=O)(=O)N | C3H8N2O2S
reactant | 2-dicyclohexylphosphino-2′4′6′-tri-iso-propyl-1,1′biphenyl | 44 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-methoxypyrimidine | ClC1=NC(=NC(=C1)OC)SCC1=C(C(=CC=C1)F)F | C12H9ClF2N2OS
solvent | dioxane | 7.2 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 44 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Acetic acid | 0.67 mL | C(C)(=O)O | C2H4O2
product | N-[2-[[(2,3-Difluorophenyl)methyl]thio]-6-methoxypyrimidin-4-yl]azetidine-1-sulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC | C15H16F2N4O3S2
